US06511993B1
1-(4-Bromo-2-methylphenyl)-1H-pyrazol-3-ol
Potassium tert-butoxide (20 ml, 1M in tert-butanol, 20.0 mmol) was added to 1-(4-bromo-2-methylphenyl)hydrazine (J. Chem. Soc. 109; 1916; 582)(2.01 g, 10.0 mmol) to give a dark brown suspension. Ethyl propiolate (1.02 ml, 10 mmol) was then added dropwise over 10 minutes, with cooling, and once addition was complete, the reaction was heated under reflux for 4 hours. The reaction was diluted with water (200 ml) and this mixture washed with dichloromethane (2×50 ml). The aqueous phase was acidified using hydrochloric acid (2N), extracted with dichloromethane (5×100 ml), these combined organic extracts dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by column chromatography on silica gel using dichloromethane:methanol (98:2) as eluant, and triturated with ether/di-isopropyl ether to give the title compound (615 mg, 24%) as a solid.

reactant | Potassium tert-butoxide | 20.0 mmol, 1M, 20 ml | CC(C)([O-])C.[K+]
reactant | 1-(4-bromo-2-methylphenyl)hydrazine | 10.0 mmol, 2.01 g | BrC1=CC(=C(C=C1)NN)C | C7H9BrN2
reactant | Ethyl propiolate | 10 mmol, 1.02 ml | C(C#C)(=O)OCC | C5H6O2
solvent | water | 200 ml | O | H2O
product | 1-(4-Bromo-2-methylphenyl)-1H-pyrazol-3-ol | 615 mg, 24% | BrC1=CC(=C(C=C1)N1N=C(C=C1)O)C | C10H9BrN2O
